US06057358
Lithium aluminum hydride (LAH) (0.57 g, 0.015 mol) were dissolved in tetrahydrofuran (30 ml) at room temperature, followed by stirring for 30 min. To the resulting solution there was slowly added dropwise a solution having 3,4-dichlorophenylacetic acid (3 g, 0.015 mol) and triethylamine (2.1 ml, 0.015 mol) dissolved in tetrahydrofuran (20 ml) and after stirring at the reflux temperature for 3 h, the mixture was cooled and water was poured into. The mixture was neutralized with an aqueous solution of sodium hydroxide and subjected to extraction with ethyl acetate to yield the end compound 3,4-dichlorophenethyl alcohol (2.53 g).

reactant | Lithium aluminum hydride | 0.015 mol, 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3,4-dichlorophenylacetic acid | 0.015 mol, 3 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | triethylamine | 0.015 mol, 2.1 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3,4-dichlorophenethyl alcohol | 2.53 g | ClC=1C=C(CCO)C=CC1Cl | C8H8Cl2O
